US07420056B2
4.76 g (50.0 mmol) of 2-aminopyrazine were dissolved together with 8.76 ml (50.0 mmol) of 1,1,3,3-tetramethyl-butylisonitrile and 5.42 ml (50.0 mmol) of 5-bromothiophene-2-carbaldehyde in chloroform (40 ml) After addition of perchloric acid (5 ml), the mixture was stirred at 50° C. for 16 h. After cooling to RT, washing was performed 2× with a sat. aq. sodium carbonate solution. The organic phase was dried over magnesium sulfate, filtered and evaporated under a vacuum. After carrying out column chromatography (EA/DCM 1:3) with the group, 11.39 g (28.0 mmol, 56% of theoretical) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine were obtained.

reactant | 2-aminopyrazine | 50.0 mmol, 4.76 g | NC1=NC=CN=C1 | C4H5N3
reactant | 1,1,3,3-tetramethyl-butylisonitrile | 50.0 mmol, 8.76 ml | CC(CC(C)(C)C)(C)[N+]#[C-] | C9H17N
reactant | 5-bromothiophene-2-carbaldehyde | 50.0 mmol, 5.42 ml | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | perchloric acid | 5 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-(1,1,3,3-tetramethyl-butyl)-amine | 28.0 mmol, 11.39 g, 56% | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(CC(C)(C)C)(C)C | C18H23BrN4S
